US07307094B2
N-(8-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-2-phenylbenzoxazole-7-carboxamide was prepared from 3-amino-8-methyl-8-azabicyclo[3.2.1]octane and 2-phenylbenzoxazole-7-carboxylic acid using conditions similar to those described for Step C in Example 7. This compound was obtained in 57% yield as a white solid: mp 164-166° C.; 1H NMR (300 MHz, CH3OD) δ 8.25 (dd, J=8.1, 1.8 Hz, 2H), 7.90 (dd, J=8.1, 1.2 Hz, 1H), 7.80 (d, J=7.5 Hz, 1H), 7.64-7.58 (m, 3H), 7.50 (t, J=7.8 Hz, 1H), 4.25 (t, J=5.0 Hz, 1H), 3.63 (br s, 2H), 2.63 (s, 3H), 2.53-2.35 (m, 6H), 2.22-2.17 (m, 2H); MS (ESI) m/z 362 [M+H]+.

reactant | 3-amino-8-methyl-8-azabicyclo[3.2.1]octane | NC1CC2CCC(C1)N2C | C8H16N2
reactant | 2-phenylbenzoxazole-7-carboxylic acid | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H9NO3
product | N-(8-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-2-phenylbenzoxazole-7-carboxamide | 57% yield | CN1C2CC(CC1CC2)NC(=O)C2=CC=CC=1N=C(OC12)C1=CC=CC=C1 | C22H23N3O2
